US08669381B2
Step 3: Synthesis of methyl 3-chloro-4-(2-methoxy-2-oxoethyl)benzoate
To a solution of methyl 4-(bromomethyl)-3-chlorobenzoate (10 g, 37.95 mmol) in MeOH (300 mL) was added TEA (4.2 mL, 30.36 mmol) and Pd(dppf)Cl2 (2.8 g, 3.8 mmol). The reaction was heated under 0.4 MPa CO pressure at 60° C. for 3 h, filtered and concentrated. The residue was purified by Combi-Flash (120 g silica gel, start PE/EA=10:0 to 5:1 by gradient, 60 mL/min, 60 min, 3.6 L total solvent volume) to afford product as a white solid (2.7 g, 29%). MS (ESI): m/z 243.0 [M+1]+.

reactant | methyl 4-(bromomethyl)-3-chlorobenzoate | 37.95 mmol, 10 g | BrCC1=C(C=C(C(=O)OC)C=C1)Cl | C9H8BrClO2
solvent | MeOH | 300 mL | CO | CH4O
catalyst | Pd(dppf)Cl2 | 3.8 mmol, 2.8 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 3-chloro-4-(2-methoxy-2-oxoethyl)benzoate | 2.7 g, 29% | ClC=1C=C(C(=O)OC)C=CC1CC(=O)OC | C11H11ClO4
